US09278951B2
Synthesis of 4,5-dichloro-1-methyl-3-(naphthalen-2-ylmethyl)-1H-imidazolium iodide
4,5-dichloroimidazole (40.0 mmol, 5.479 g) and KOH (44.0 mmol, 2.469 g) were placed in a round bottom flask with 100 mL acetonitrile. The mixture was brought to reflux (85° C.) and stirred 1 h until KOH was consumed. 2-Bromomethylnapthalene (40.00 mmol, 8.844 g) was added and the solution was stirred at reflux for 17 hours. KBr was removed by vacuum filtration and the filtrate was collected. The volatiles were removed by rotary evaporation to give 4,5-dichloro-1-(naphthalen-2-ylmethyl)-1H-imidazole as a light brown solid. 4,5-dichloro-1-(naphthalen-2-ylmethyl)-1H-imidazole (18 mmol) was dissolved in acetonitrile (40 mL) in a round bottom flask. The solution was brought to reflux and iodomethane (5 mL) was added. The reaction was stirred at reflux for 20 h after which time it was cooled. The resulting white precipitate was collected by filtration and analyzed. Yield: 89.6% 1H NMR (300 MHz, d6-DMSO): δ 3.86 (s), 5.68 (s), 7.53-7.59 (m), 7.93-8.03 (m), 9.51 (s) ppm.

reactant | 4,5-dichloro-1-(naphthalen-2-ylmethyl)-1H-imidazole | 18 mmol | ClC=1N=CN(C1Cl)CC1=CC2=CC=CC=C2C=C1 | C14H10Cl2N2
reactant | iodomethane | 5 mL | IC | CH3I
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 4,5-dichloro-1-methyl-3-(naphthalen-2-ylmethyl)-1H-imidazolium iodide | [I-].ClC=1N(C[NH+](C1Cl)C)CC1=CC2=CC=CC=C2C=C1 | InChI=1S/C15H14Cl2N2.HI/c1-18-10-19(15(17)14(18)16)9-11-6-7-12-4-2-3-5-13(12)8-11;/h2-8H,9-10H2,1H3;1H
